US05840732
i) Synthesis of 7-[4-(3-dimethylaminomethylimidazo[1,2-a]pyridin-5-ylthio)butyl]-1,1-dioxo-9-phenyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione
To a solution of 0.45 g (0.93 mmol) of 7-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]-1,1-dioxo-9-phenyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione in 10 ml of acetonitrile, 0.258 g (1.4 mmol) of N,N-dimethylmethylene ammonium iodide (Eschenmoser's salt) was added at room temperature, followed by refluxing for 2 hours. After the reaction mixture was cooled, the solvent was distilled off. The residue was dissolved in dichloromethane, washed with saturated aqueous sodium hydrogen carbonate and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, chloroform/methanol=25/1) to yield 0.40 g (77.6%, light yellow oily substance) of the desired product.

reactant | 7-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]-1,1-dioxo-9-phenyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione | 0.93 mmol, 0.45 g | N=1C=CN2C1C=CC=C2SCCCCN2C(N1C(S(CCC1)(=O)=O)=C(C2=O)C2=CC=CC=C2)=O | C24H24N4O4S2
reactant | N,N-dimethylmethylene ammonium iodide | 1.4 mmol, 0.258 g | [I-].CC=[N+]=CC
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 7-[4-(3-dimethylaminomethylimidazo[1,2-a]pyridin-5-ylthio)butyl]-1,1-dioxo-9-phenyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione | CN(C)CC1=CN=C2N1C(=CC=C2)SCCCCN2C(N1C(S(CCC1)(=O)=O)=C(C2=O)C2=CC=CC=C2)=O | C27H31N5O4S2
